### PR TITLE
feat: add from/toList between `FreeSemigroup` and `List` with relative theorems

### PR DESCRIPTION
**Pull request by yhtq**
Add from/toList between `FreeSemigroup` and `List` with relative theorems, as well as an incidental definition of lexicographic order on `FreeSemigroup`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Free.lean [hunk 1]
```diff
@@ -442,6 +444,173 @@ theorem length_mul (x y : FreeSemigroup α) : (x * y).length = x.length + y.leng
 @[to_additive (attr := simp)]
 theorem length_of (x : α) : (of x).length = 1 := rfl
 
+@[to_additive]
+theorem length_lt_zero (x : FreeSemigroup α) : x.length > 0 := Nat.zero_lt_succ _
```
Comment (YaelDillies) [inline Mathlib/Algebra/Free.lean:448]: Never use `>` in mathlib, only `<`
```suggestion
theorem length_pos {x : FreeSemigroup α} : 0 < x.length := Nat.zero_lt_succ _
```

File: Mathlib/Algebra/Free.lean [hunk 2]
```diff
@@ -442,6 +444,173 @@ theorem length_mul (x y : FreeSemigroup α) : (x * y).length = x.length + y.leng
...
+
+@[to_additive]
+theorem length_factor_lt_left (x y : FreeSemigroup α) :
+    x.length < (x * y).length := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Free.lean:452]:
```suggestion
theorem lt_length_mul_left {x y : FreeSemigroup α} :
    x.length < (x * y).length := by
```
Same below

File: Mathlib/Algebra/Free.lean [hunk 3]
```diff
@@ -442,6 +444,173 @@ theorem length_mul (x y : FreeSemigroup α) : (x * y).length = x.length + y.leng
...
+  rw [length_mul, Nat.lt_add_left_iff_pos]
+  exact length_lt_zero _
+
+/--
+  converts a nonempty list to a free semi group.
+-/
+@[to_additive "converts a nonempty list to a free additive semi group."]
+def fromList  (l : List α) (h : ¬l.isEmpty) : FreeSemigroup α :=
+  match l with
+  | a :: l => if h : l.isEmpty then of a else of a * fromList l h
```
Comment (YaelDillies) [inline Mathlib/Algebra/Free.lean:468]:
```suggestion
  match l with
  | [a] => of a
  | a :: b :: l => of a * fromList (b :: l) (by simp)
```

Comment (YaelDillies) [inline Mathlib/Algebra/Free.lean:468]:
```suggestion
def fromList : ∀ l : List α, ¬l.isEmpty → FreeSemigroup α
  | [a], _ => of a
  | a :: b :: l, _=> of a * fromList (b :: l) (by simp)
```

File: Mathlib/Algebra/Free.lean [hunk 4]
```diff
@@ -442,6 +444,173 @@ theorem length_mul (x y : FreeSemigroup α) : (x * y).length = x.length + y.leng
...
+theorem length_factor_lt_right (x y : FreeSemigroup α) :
+    y.length < (x * y).length := by
+  rw [length_mul, Nat.lt_add_left_iff_pos]
+  exact length_lt_zero _
+
+/--
+  converts a nonempty list to a free semi group.
+-/
+@[to_additive "converts a nonempty list to a free additive semi group."]
+def fromList  (l : List α) (h : ¬l.isEmpty) : FreeSemigroup α :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Free.lean:466]: Mathlib would probably call that
```suggestion
def ofList (l : List α) (h : ¬l.isEmpty) : FreeSemigroup α :=
```

File: Mathlib/Algebra/Free.lean [hunk 5]
```diff
@@ -442,6 +444,173 @@ theorem length_mul (x y : FreeSemigroup α) : (x * y).length = x.length + y.leng
...
+  match l with
+  | a :: l => if h : l.isEmpty then of a else of a * fromList l h
+
+@[to_additive (attr := simp)]
+theorem fromList_head {l : List α} (h : ¬l.isEmpty) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Free.lean:471]:
```suggestion
theorem head_fromList {l : List α} (h : ¬l.isEmpty) :
```

File: Mathlib/Algebra/Free.lean [hunk 6]
```diff
@@ -442,6 +444,173 @@ theorem length_mul (x y : FreeSemigroup α) : (x * y).length = x.length + y.leng
...
+      (Ne.symm (ne_of_apply_ne List.isEmpty fun a ↦ h (id (Eq.symm a)))
+    ) := by
+  match l with
+  | a :: l =>
+    simp only [fromList, List.isEmpty_eq_true, List.head_cons]
+    rw [apply_dite head]
+    simp only [List.isEmpty_eq_true, of_head, head_mul, dite_eq_ite, ite_self]
+
+@[to_additive (attr := simp)]
+theorem fromList_tail {l : List α} (h : ¬l.isEmpty) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Free.lean:482]:
```suggestion
theorem tail_fromList {l : List α} (h : ¬l.isEmpty) :
```

File: Mathlib/Algebra/Free.lean [hunk 7]
```diff
@@ -442,6 +444,173 @@ theorem length_mul (x y : FreeSemigroup α) : (x * y).length = x.length + y.leng
...
+    simp only [List.isEmpty_eq_true, of_tail, tail_mul, fromList_head, List.nil_append]
+    by_cases h : l'.isEmpty
+    · simp only [h, ↓reduceDIte, List.nil_eq]
+      exact List.isEmpty_iff.mp h
+    · simp only [h, Bool.false_eq_true, ↓reduceDIte]
+      rw [fromList_tail]
+      simp only [List.head_cons_tail]
+
+@[to_additive (attr := simp)]
+theorem fromList_length {l : List α} (h : ¬l.isEmpty) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Free.lean:497]:
```suggestion
theorem length_fromList {l : List α} (h : ¬l.isEmpty) :
```

File: Mathlib/Algebra/Free.lean [hunk 8]
```diff
@@ -442,6 +444,173 @@ theorem length_mul (x y : FreeSemigroup α) : (x * y).length = x.length + y.leng
...
+-/
+@[to_additive "converts a free additive semigroup to a list."]
+def toList : FreeSemigroup α → List α := fun x => x.head :: x.tail
+
+@[to_additive (attr := simp)]
+theorem toList_of (a : α) : toList (of a) = [a] := rfl
+
+@[to_additive (attr := simp)]
+theorem toList_mul (x y : FreeSemigroup α) :
+  toList (x * y) = toList x ++ toList y := rfl
```
Comment (YaelDillies) [inline Mathlib/Algebra/Free.lean:550]: Statement are indented by four spaces
```suggestion
    toList (x * y) = toList x ++ toList y := rfl
```

File: Mathlib/Algebra/Free.lean [hunk 9]
```diff
@@ -442,6 +444,173 @@ theorem length_mul (x y : FreeSemigroup α) : (x * y).length = x.length + y.leng
...
+
+@[to_additive (attr := simp)]
+theorem toList_length (x : FreeSemigroup α) :
+  x.toList.length = x.length := rfl
+
+@[to_additive]
+theorem toList_nonEmpty (x : FreeSemigroup α) : ¬x.toList.isEmpty := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Free.lean:557]:
```suggestion
theorem not_isEmpty_toList {x : FreeSemigroup α} : ¬x.toList.isEmpty := by
```

**Review by YaelDillies — COMMENTED** [review]
Thanks for the PR! Here is a first batch of comments

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
